US04735940
(adb) 671.5 g of thieno[2,3-c]pyridine 6-oxide hydrochloride were suspended in 4000 ml of dioxane under argon and 655 ml of phosphorus oxychloride are added. The mixture was heated on an oil-bath until the exothermic reaction set in. After the exothermic reaction faded away, the mixture was heated to reflux for an additional 10 minutes. The mixture was concentrated in vacuo and the residue was taken up in 2000 ml of toluene. The solution was then treated with 300 ml of water while cooling slowly. The mixture was neutralized by the portionwise addition of sodium carbonate. The organic phase was separated and the aqueous phase was extracted with 1000 ml of toluene. After washing with water, the combined organic solutions were dried over sodium sulfate, filtered and evaporated, whereby crude 7-chloro-thieno[2,3-c]pyridine was obtained as a brown oil.

reactant | thieno[2,3-c]pyridine 6-oxide hydrochloride | 671.5 g | Cl.S1C=CC=2C1=C[N+](=CC2)[O-]
reactant | phosphorus oxychloride | 655 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 4000 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-thieno[2,3-c]pyridine | ClC=1N=CC=C2C1SC=C2 | C7H4ClNS
